US04933355
5-{1-Ethoxycarbonyl-1-[2-(3-p-tolylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid
Following a procedure similar to that described in Example 1, the desired compound was prepared using 4.8 g of ethyl 2-(3-p-tolylureido)thiazol-4-ylglyoxylate, 2.5 g of rhodanine-3-acetic acid, 1.5 g of ammonium chloride, 1.5 ml of 20% v/v aqueous ammonia and 50 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-p-tolylureido)thiazol-4-ylglyoxylate | 4.8 g | C1(=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O)C | C15H15N3O4S
reactant | rhodanine-3-acetic acid | 2.5 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-(3-p-tolylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=C(C=C1)C)=C1C(N(C(S1)=S)CC(=O)O)=O | C20H18N4O6S3
